US04515619
1-methylcarbamoyloxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea
4.72 g (0.02 mole) 1-hydroxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea were suspended in 40 ml tetrahydrafuran and then reacted with 1.19 ml (0.02 mole) methylisocyanate. After addition of 3 drops of triethylamine there is obtained a clear solution and after a further 10 minutes crystals already begin to separate out. The reaction mixture is allowed to stand at room temperature. Thereafter the crystals are separated off and digested with diisopropylether.

reactant | 1-hydroxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea | 0.02 mole, 4.72 g | ON(C(=O)NC1=CN=NS1)C1=CC=CC=C1 | C9H8N4O2S
reactant | methylisocyanate | 0.02 mole, 1.19 ml | CN=C=O | C2H3NO
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | 1-methylcarbamoyloxy-1-phenyl-3-(1,2,3-thiadiazole-5-yl)-urea | CNC(=O)ON(C(=O)NC1=CN=NS1)C1=CC=CC=C1 | C11H11N5O3S
